US05912256
1-(4-indolyloxy)-3-[4-hydroxy-4-(6-hexyloxynaphth-2-yl)piperidine-1-yl]propane
Beginning with 0.257 gm (1.2 mMol) 1-(4-indolyloxy)-3-chloropropane and 0.400 gm (1.2 mMol) 4-hydroxy-4-(6-hexyloxynaphth-2-yl)piperidine, 0.194 gm (32%) of the title compound was recovered as a white solid by the procedure described in Example 1.

reactant | 1-(4-indolyloxy)-3-chloropropane | 1.2 mMol, 0.257 gm | N1C=CC2=C(C=CC=C12)OCCCCl | C11H12ClNO
reactant | 4-hydroxy-4-(6-hexyloxynaphth-2-yl)piperidine | 1.2 mMol, 0.400 gm | OC1(CCNCC1)C1=CC2=CC=C(C=C2C=C1)OCCCCCC | C21H29NO2
product | 1-(4-indolyloxy)-3-[4-hydroxy-4-(6-hexyloxynaphth-2-yl)piperidine-1-yl]propane | 0.194 gm, 32% | N1C=CC2=C(C=CC=C12)OCCCN1CCC(CC1)(C1=CC2=CC=C(C=C2C=C1)OCCCCCC)O | C32H40N2O3
